US05563162
A mixture of 4-chloro-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline (200 mg) and N,N-dimethylformamide (3 ml) was heated under reflux for 18 hours. The reaction mixture was partitioned into ethyl acetate and saturated aqueous solution of sodium bicarbonate. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (dichloromethane-methanol) to give 8-hydroxy-2-methyl-4-dimethylaminoquinoline (26 mg) as a brownish powder.

reactant | 4-chloro-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline | 200 mg | ClC1=CC(=NC2=C(C=CC=C12)OCC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C | C17H11Cl3N2O3
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 8-hydroxy-2-methyl-4-dimethylaminoquinoline | 26 mg | OC=1C=CC=C2C(=CC(=NC12)C)N(C)C | C12H14N2O
